US08426411B2
To a 0° C. solution of N-4-cyclohexyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-4,5-diamine (Preparation #BBB.1, 0.080 g, 0.208 mmol) in DCM (2.0 mL) was added TEA (2 M in DCM, 0.104 mL, 0.208 mmol) and TFAA (2 M in DCM, 0.104 mL, 0.208 mmol). The reaction mixture was stirred for about 10 min. The reaction mixture was washed with saturated aqueous NaHCO3 (2 mL) and water (2 mL), dried over anhydrous MgSO4, filtered and concd under reduced pressure to give N-(4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2,2,2-trifluoroacetamide with 40 mol % dichloromethane as an excipient (0.089 g, 83%, 90% purity) as a brown solid: LC/MS (Table 1, Method n) Rt=0.88 min; MS m/z 481 (M+H)+.

reactant | N-4-cyclohexyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 0.208 mmol, 0.080 g | C1CCC(CC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C20H24N4O2S
reactant | TFAA | 0.208 mmol, 2 M, 0.104 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2,2,2-trifluoroacetamide | C1(CCCCC1)NC1=C2C(=NC=C1NC(C(F)(F)F)=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C22H23F3N4O3S
